US08445505B2
A mixture of 4-(2,5-dimethyl-4-(4-(5-methyl-1H-pyrazol-3-ylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)cyclohexanone (40 mg, 0.087 mmol), morpholine (15 μL, 0.174 mmol) and acetic acid (75 μL, 0.13 mmol) was stirred at room temperature for 1 h. Sodium cyanoborohydride (8.2 mg, 0.13 mmol) was added to the reaction and the reaction mixture was stirred overnight. The mixture was concentrated and purified by silica chromatography (MeOH/DCM 8:92) to afford N2-(2,5-dimethyl-4-(trans-4-morpholinocyclohexyl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)-5-(trifluoromethyl)pyrimidine-2,4-diamine; Rf: 0.38 (Silica; MeOH/DCM 8:92); ESMS m/z 530.3 (M+H+).

reactant | 4-(2,5-dimethyl-4-(4-(5-methyl-1H-pyrazol-3-ylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)cyclohexanone | 0.087 mmol, 40 mg | CC1=C(C=C(C(=C1)NC1=NC=C(C(=N1)NC1=NNC(=C1)C)C(F)(F)F)C)C1CCC(CC1)=O | C23H25F3N6O
reactant | morpholine | 0.174 mmol, 15 μL | N1CCOCC1 | C4H9NO
reactant | acetic acid | 0.13 mmol, 75 μL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 0.13 mmol, 8.2 mg | C(#N)[BH3-].[Na+]
product | N2-(2,5-dimethyl-4-(trans-4-morpholinocyclohexyl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)-5-(trifluoromethyl)pyrimidine-2,4-diamine | CC1=C(C=C(C(=C1)[C@@H]1CC[C@H](CC1)N1CCOCC1)C)NC1=NC=C(C(=N1)NC1=NNC(=C1)C)C(F)(F)F | C27H34F3N7O
